US07855297B2
By the reaction and treatment in the same manner as in Example 12 using 6-methoxychroman-4-carboxylic acid (0.31 g) and [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine (0.37 g) as starting materials, N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-6-methoxychroman-4-carboxamide (0.39 g) was obtained.

reactant | 6-methoxychroman-4-carboxylic acid | 0.31 g | COC=1C=C2C(CCOC2=CC1)C(=O)O | C11H12O4
reactant | [(1-ethylpyrazol-4-yl)methyl](4-isopropylphenyl)amine | 0.37 g | C(C)N1N=CC(=C1)CNC1=CC=C(C=C1)C(C)C | C15H21N3
product | N-[(1-ethylpyrazol-4-yl)methyl]-N-(4-isopropylphenyl)-6-methoxychroman-4-carboxamide | 0.39 g | C(C)N1N=CC(=C1)CN(C(=O)C1CCOC2=CC=C(C=C12)OC)C1=CC=C(C=C1)C(C)C | C26H31N3O3
